US07238716B2
A mixture of methyl methylthiomethyl sulfoxide (1.94 g) and finely triturated sodium hydroxide (0.01 g) was stirred at 70° C. for 30 min. 2-Benzyloxy-5-ethoxybenzaldehyde (2.0 g) and methanol (10 mL) were added to the reaction mixture, and the mixture was further heated under reflux for 24 hrs. To the reaction mixture was added ethyl acetate, and the organic layer was washed successively with 1N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. A mixture of the obtained residue and 10% hydrogen chloride-methanol (100 mL) was heated under reflux for 24 hrs. The reaction mixture was concentrated, and then ethyl acetate was added to the residue. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give methyl 2-(2-benzyloxy-5-ethoxyphenyl)acetate as a yellow oil (1.60 g, 69%) from a fraction eluted with ethyl acetate-hexane (1:3, v/v).

reactant | methyl methylthiomethyl sulfoxide | 1.94 g | CSCS(=O)C | C3H8OS2
reactant | 2-Benzyloxy-5-ethoxybenzaldehyde | 2.0 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OCC | C16H16O3
reactant | methanol | 10 mL | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | sodium hydroxide | 0.01 g | [OH-].[Na+]
product | methyl 2-(2-benzyloxy-5-ethoxyphenyl)acetate | 1.60 g, 69% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC)CC(=O)OC | C18H20O4
